US07589072B2
8-Boc-aminooctanoic acid
8-Aminocaprylic acid (970.3 mg, 6.1 mmol) was dissolved in tert-butylalcohol (14.7 ml), 5N NaOH (1.44 ml, 6.1 mmol) was added thereto, and the mixture was stirred at room temperature for 10 minutes. Di-tert-butyl-dicarbonate (1.46 g, 6.7 mmol) dissolved in tert-butylalcohol (10 ml) was added thereto and stirred at room temperature for 24 hours. Then, water (10 ml) was added thereto and the mixture was concentrated under a reduced pressure, cooled to 0° C., and then, 2N H2SO4 was added thereto dropwise until pH of the mixture became 2. The resultant was extracted with ethyl acetate, the extract was washed with H2O, dried over MgSO4 and concentrated. The concentrate was purified using column chromatography (ethyl acetate:toluene:acetic acid=20:10:0.3) to obtain the title compound (1.78 g) as a white solid.

reactant | 8-Aminocaprylic acid | 6.1 mmol, 970.3 mg | NCCCCCCCC(=O)O | C8H17NO2
reactant | NaOH | 6.1 mmol, 5N, 1.44 ml | [OH-].[Na+]
reactant | Di-tert-butyl-dicarbonate | 6.7 mmol, 1.46 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 10 ml | O | H2O
reactant | tert-butylalcohol | 14.7 ml | C(C)(C)(C)O | C4H10O
reactant | tert-butylalcohol | 10 ml | C(C)(C)(C)O | C4H10O
product | 8-Boc-aminooctanoic acid | 1.78 g | C(=O)(OC(C)(C)C)CCCCCCC(C(=O)O)N | C13H25NO4
